US07659267B2
N,N-Diethyl-4-(4-oxo-4H-1,3-benzothiazin-2-yl)benzamide
A mixture of 4-cyano-N,N-diethylbenzamide (0.60 g, 3.0 mmol), methyl thiosalicylate (0.75 g, 4.5 mmol), triethylamine (0.54 g, 5.3 mmol) and toluene (5 ml) was heated and refluxed under a nitrogen flow for 70 hours. To the reaction solution, ethyl acetate was added and the solid precipitated was removed by filtration. After the filtrate was ice-cooled, the crystals precipitated were taken by filtration and recrystallized from ethyl acetate to give the title compound (0.31 g, 30%) as crystals.

reactant | 4-cyano-N,N-diethylbenzamide | 3.0 mmol, 0.60 g | C(#N)C1=CC=C(C(=O)N(CC)CC)C=C1 | C12H14N2O
reactant | methyl thiosalicylate | 4.5 mmol, 0.75 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 5.3 mmol, 0.54 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-Diethyl-4-(4-oxo-4H-1,3-benzothiazin-2-yl)benzamide | 0.31 g, 30% | C(C)N(C(C1=CC=C(C=C1)C=1SC2=C(C(N1)=O)C=CC=C2)=O)CC | C19H18N2O2S
